US06921762B2
Step B: 8-(3-methylphenyl)-5,7-bis(2-chloro-4-pyridyl)-1,2,4-triazolo[4,3-c]pyrimidine
The title compound was synthesized from 2,6-bis(2-chloro(4-pyridyl))-4-chloro-5-(3-methylphenyl)pyrimidine in the same manner as 2-(8-(4-fluorophenyl)-7-(4-pyridyl)-1,2,4-triazolo[4,3-c]pyrimidin-5-yl)amino-2-phenylpropane; MS (m/z) 434.9 (M+H)+; C22H14Cl2N6 requir. 433.29.

reactant | 2,6-bis(2-chloro(4-pyridyl))-4-chloro-5-(3-methylphenyl)pyrimidine | ClC1=NC=CC(=C1)C1=NC(=C(C(=N1)Cl)C1=CC(=CC=C1)C)C1=CC(=NC=C1)Cl | C21H13Cl3N4
reactant | 2-(8-(4-fluorophenyl)-7-(4-pyridyl)-1,2,4-triazolo[4,3-c]pyrimidin-5-yl)amino-2-phenylpropane | FC1=CC=C(C=C1)C=1C=2N(C(=NC1C1=CC=NC=C1)NC(C)(C)C1=CC=CC=C1)C=NN2 | C25H21FN6
product | 8-(3-methylphenyl)-5,7-bis(2-chloro-4-pyridyl)-1,2,4-triazolo[4,3-c]pyrimidine | CC=1C=C(C=CC1)C=1C=2N(C(=NC1C1=CC(=NC=C1)Cl)C1=CC(=NC=C1)Cl)C=NN2 | C22H14Cl2N6
